US07947692B2
A magnetically stirred mixture of 4-(3-Trifluoromethyl-benzyl)-piperazine-1-carbonyl chloride (500 mg, 1.630 mmol) in acetone (20 mL) under a nitrogen atmosphere at 25° C. was treated with ammonium thiocyanate (115 mg, 1.49 mmol). The reaction mixture was stirred at reflux for 30 min. At this time, the reaction was treated with 3-amino-2-chloro-4 methoxypyridine (215 mg, 1.34 mmol). The reaction mixture was refluxed overnight. At this time, the reaction was concentrated in vacuo, poured into water and extracted with ethyl acetate. The organics were washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 75:25 hexanes/ethyl acetate) afforded 4-(3-Trifluoromethyl-benzyl)-piperazine-1-carboxylic acid (7-methoxy-thiazolo[5,4-b]pyridin-2-yl)-amide (35 mg, 15%) as white solid. LRMS for C20H20F3N5O2S (M+H)+ at m/z=451. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 4-(3-Trifluoromethyl-benzyl)-piperazine-1-carbonyl chloride | 1.630 mmol, 500 mg | FC(C=1C=C(CN2CCN(CC2)C(=O)Cl)C=CC1)(F)F | C13H14ClF3N2O
reactant | ammonium thiocyanate | 1.49 mmol, 115 mg | [S-]C#N.[NH4+]
reactant | 3-amino-2-chloro-4 methoxypyridine | 1.34 mmol, 215 mg | NC=1C(=NC=CC1OC)Cl | C6H7ClN2O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 4-(3-Trifluoromethyl-benzyl)-piperazine-1-carboxylic acid (7-methoxy-thiazolo[5,4-b]pyridin-2-yl)-amide | 35 mg, 15% | COC1=C2C(=NC=C1)SC(=N2)NC(=O)N2CCN(CC2)CC2=CC(=CC=C2)C(F)(F)F | C20H20F3N5O2S
